US07820707B2
N-(2-hydroxyethyl)-2-(2-(4-((2,2,2-trifluoroethylamino)methyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
2-(2-(4-Formyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (30 mg, 0.068 mmol), 2,2,2-trifluoroethylamine (19.8 mg, 0.20 mmol) and DCM (1 mL) were treated with acetic acid (5 drops) and sodium triacetoxyborohydride (58 mg, 0.272 mmol) and the mixture stirred at RT overnight. The sample was concentrated and re-dissolved in dimethylsulfoxide (1 mL), filtered and purified by preparative LCMS followed by additional purification by SCX ion exchange chromatography to yield the title compound (10 mg, 0.02 mmol, 29%).

reactant | 2-(2-(4-Formyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.068 mmol, 30 mg | C(=O)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NCCO)C(F)(F)F | C18H19F3N4O4S
reactant | 2,2,2-trifluoroethylamine | 0.20 mmol, 19.8 mg | FC(CN)(F)F | C2H4F3N
reactant | sodium triacetoxyborohydride | 0.272 mmol, 58 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxyethyl)-2-(2-(4-((2,2,2-trifluoroethylamino)methyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.02 mmol, 10 mg, 29% | OCCNC(=O)C=1C2=C(SC1NC(CN1N=C(C(=C1)CNCC(F)(F)F)C(F)(F)F)=O)CCCC2 | C20H23F6N5O3S
